US08349880B2
Step E (3): Water (8 mL) and dioxane (8 mL) were added to a mixture of 3-chloro-1-(2-methoxy-4-nitrophenyl)-1H-1,2,4-triazole (0.900 g, 3.53 mmol) and sodium sulfide (1.379 g, 17.67 mmol) in a 20 mL vial. The vial was capped and heated at 70-80° C. for 24 hours. The mixture was cooled to rt, poured into water (300 mL) and extracted with EtOAc (2×150 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford 4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyaniline (577 mg, 73%) as a brown solid. LC-MS (M+H)+ 225.1.

reactant | dioxane | 8 mL | O1CCOCC1 | C4H8O2
reactant | 3-chloro-1-(2-methoxy-4-nitrophenyl)-1H-1,2,4-triazole | 3.53 mmol, 0.900 g | ClC1=NN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H7ClN4O3
reactant | sodium sulfide | 17.67 mmol, 1.379 g | [S-2].[Na+].[Na+]
solvent | water | 300 mL | O | H2O
solvent | Water | 8 mL | O | H2O
product | 4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyaniline | 577 mg, 73% | ClC1=NN(C=N1)C1=C(C=C(N)C=C1)OC | C9H9ClN4O
